US09062028B2
Step B. 3-((4-Bromo-1H-pyrazol-1-yl)methyl)benzamide
To a solution of 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzoic acid (0.20 g, 0.711 mmol) in THF (3.5 mL) at 0° C. was added N-methylmorpholine (0.086 g, 0.854 mmol), and isobutyl chloroformate (0.107 g, 0.783 mmol) slowly. The reaction was stirred at 0° C. for 1.5 h and ammonium hydroxide (0.249 g, 7.11 mmol) was slowly added. The reaction was allowed to warm to room temperature where it stirred overnight. At the conclusion of this period, the reaction mixture was partitioned between DCM and water. The organic layer was separated, dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue was purified by flash chromatography (0-100% ethyl acetate:hexanes) to afford the title compound (0.188 g, 94%). LCMS, [M+H]+=280.0.

reactant | 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzoic acid | 0.711 mmol, 0.20 g | BrC=1C=NN(C1)CC=1C=C(C(=O)O)C=CC1 | C11H9BrN2O2
reactant | N-methylmorpholine | 0.854 mmol, 0.086 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.783 mmol, 0.107 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ammonium hydroxide | 7.11 mmol, 0.249 g | [OH-].[NH4+]
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | 3-((4-Bromo-1H-pyrazol-1-yl)methyl)benzamide | 0.188 g, 94% | BrC=1C=NN(C1)CC=1C=C(C(=O)N)C=CC1 | C11H10BrN3O
